US07244730B2
(Step 1) 4-(2-Bromoacetyl)-2-(tert-butyl)-6-ethoxyphenyl N-ethylcarbamate
Triethylamine (0.02 ml, 0.130 mmol) and ethyl isocyanate (0.053 ml, 0.677 ml) were added to a solution of 1-[3-(tert-butyl)-5-ethoxy-4-hydroxyphenyl]-1-ethanone (100 mg, 0.423 mmol) in methylene chloride (4.2 ml) and the mixture was stirred at room temperature for 2 days. Ethyl acetate was added, and then the reaction mixture was washed with water, the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Tetra-n-butylammonium tribromide (214 mg, 444 mmol) was added to a solution of the residue in methylene chloride-methanol (5 ml:1.2 ml) and the mixture was stirred at room temperature for 8 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (142 mg) as colorless crystals.

reactant | Triethylamine | 0.130 mmol, 0.02 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 0.053 ml | C(C)N=C=O | C3H5NO
reactant | 1-[3-(tert-butyl)-5-ethoxy-4-hydroxyphenyl]-1-ethanone | 0.423 mmol, 100 mg | C(C)(C)(C)C=1C=C(C=C(C1O)OCC)C(C)=O | C14H20O3
reactant | Tetra-n-butylammonium tribromide | 444 mmol, 214 mg | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 4.2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride methanol | 5 ml | C(Cl)Cl.CO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Bromoacetyl)-2-(tert-butyl)-6-ethoxyphenyl N-ethylcarbamate | 142 mg | C(C)NC(OC1=C(C=C(C=C1OCC)C(CBr)=O)C(C)(C)C)=O | C17H24BrNO4
